US06348474B1
7-Carboxy-2-(2,4-dichlorobenzyl)-3-methyl-4(3H)-quinazolinone
2-(2,4-Dichlorobenzyl)-3-methyl-7-(methylcarbamoyl)-4(3H)-quinazolinone (0.88 g) in a mixture of concentrated sulfuric acid (2.0 g) and water (2.0 g) was stirred at 100° C. for 7 hr. After cooling of the reaction mixture, water (5 ml) was added. The precipitate was collected by filtration, washed with methanol and dried to give the objective compound (0.69 g) as white crystals.

reactant | 2-(2,4-Dichlorobenzyl)-3-methyl-7-(methylcarbamoyl)-4(3H)-quinazolinone | 0.88 g | ClC1=C(CC2=NC3=CC(=CC=C3C(N2C)=O)C(NC)=O)C=CC(=C1)Cl | C18H15Cl2N3O2
reactant | sulfuric acid | 2.0 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
solvent | water | 2.0 g | O | H2O
product | 7-Carboxy-2-(2,4-dichlorobenzyl)-3-methyl-4(3H)-quinazolinone | 0.69 g | C(=O)(O)C1=CC=C2C(N(C(=NC2=C1)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H12Cl2N2O3
